US04363808
A mixture of 7.0 grams of 1-(3-oxobutyl)-1H-benzimidazole, 28.7 grams of ammonium acetate and 1.6 grams of sodium cyanoborohydride in 100 ml. of methanol was stirred at room temperature for about 24 hours. The mixture was then acidified with about 40 ml. of concentrated hydrochloric acid and the solvent was evaporated. The residue was dissolved in 150 ml. of water and the aqueous solution was extracted first with ether and then it was made alkaline (pH greater than 10) with solid potassium hydroxide. The alkaline solution was extracted with several portions of methylene chloride and the organic extracts were combined, washed with water and dried over magnesium sulfate and the methylene chloride was evaporated. The residue was chromatographed on a silica gel column packed in acetonitrile and eluted with acetonitrile and acetonitrile containing increasing percentages of methanol. The fractions containing the desired product, as determined by thin-layer chromatography, were combined and the solvent evaporated to give α-methyl-1H-benzimidazole-1-propanamine as an oil.

reactant | 1-(3-oxobutyl)-1H-benzimidazole | 7.0 grams | O=C(CCN1C=NC2=C1C=CC=C2)C | C11H12N2O
reactant | ammonium acetate | 28.7 grams | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 1.6 grams | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | α-methyl-1H-benzimidazole-1-propanamine | CC(CCN1C=NC2=C1C=CC=C2)N | C11H15N3
